US07446199B2
Step B: 2-Pyridin-2-yl-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone
To a solution of 1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester (200 mg, 1.13 mmol) and 2-pyridinyl-acetic acid hydrochloride (440 mg, 2.53 mmol) in anhydrous THF (10 mL) was added LiHMDS (1.0 M in THF, 10 mL, 10.0 mmol) at −78° C. The solution was stirred at −78° C. for 30 min and was allowed to warm up to RT. After stirring at RT for another 30 min, the reaction mixture was heated under reflux for 14 h. The solvent was then evaporated, the residue was taken up to ethyl acetate (50 mL), and washed with aq. NaHCO3. The organic layer was dried over MgSO4, filtered, and evaporated. The residue was used directly for the next reaction.

reactant | 1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester | 1.13 mmol, 200 mg | COC(=O)C1=CNC2=NC=CC=C21 | C9H8N2O2
reactant | 2-pyridinyl-acetic acid hydrochloride | 2.53 mmol, 440 mg | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | LiHMDS | 10.0 mmol, 1.0 M, 10 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Pyridin-2-yl-1-(1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | N1=C(C=CC=C1)CC(=O)C1=CNC2=NC=CC=C21 | C14H11N3O
